US07429579B2
a) 4-[1,3]Dioxan-2-yl-butyric acid methyl ester
Methyl 5,5-dimethoxyvalerate (20.0 g, 0.114 mol), propane-1,3-diol (13 g, 0.17 mol) and para-toluene sulphonic acid (2.17 g, 0.0114 mol) were heated under Dean-Stark conditions in toluene (100 ml) for 4 h. The mixture was cooled to room temperature and diluted with diethyl ether (100 ml) and then neutralized with solid sodium bicarbonate. The solid was filtered and the filtrate evaporated to give a pale yellow oil (22.3 g). A 10 g portion of this was then purified by silica gel chromatography (eluent 30% EtOAc:hexane) which gave the title compound as a colourless oil (6.82 g).

reactant | Methyl 5,5-dimethoxyvalerate | 0.114 mol, 20.0 g | COC(CCCC(=O)OC)OC | C8H16O4
reactant | propane-1,3-diol | 0.17 mol, 13 g | C(CCO)O | C3H8O2
reactant | para-toluene sulphonic acid | 0.0114 mol, 2.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-[1,3]Dioxan-2-yl-butyric acid methyl ester | 22.3 g | COC(CCCC1OCCCO1)=O | C9H16O4
